US05140011
0.53 g (1.07 mmol) of t-butyl (4S,5S)-5-[(S,E)-4-(butylcarbamoyl)-2-isopropyl-3-butenyl]-4-(cyclohexylmethyl)-2,2-dimethyl-3-oxazolidinecarboxylate is dissolved in 18.2 ml of methanol and treated at 10° with 6.4 ml of 3.88M hydrochloric acid in methanol. The reaction mixture is subsequently stirred at room temperature for 5 hours and thereafter evaporated. The residue is dissolved in methylene chloride and the methylene chloride solution is washed with 2N sodium bicarbonate solution, dried over potassium carbonate and evaporated under reduced pressure. In this manner there is obtained 0.314 g of (E,4S,6S,7S)-7-amino-N-butyl-8-cyclohexyl-6-hydroxy-4-isopropyl-2-octenamide as an oil which is used in the next step without further purification.

reactant | t-butyl (4S,5S)-5-[(S,E)-4-(butylcarbamoyl)-2-isopropyl-3-butenyl]-4-(cyclohexylmethyl)-2,2-dimethyl-3-oxazolidinecarboxylate | 1.07 mmol, 0.53 g | C(CCC)NC(=O)/C=C/[C@@H](C[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC1CCCCC1)C(C)C | C29H52N2O4
reactant | hydrochloric acid | 3.88M, 6.4 ml | Cl | ClH
solvent | methanol | 18.2 ml | CO | CH4O
product | (E,4S,6S,7S)-7-amino-N-butyl-8-cyclohexyl-6-hydroxy-4-isopropyl-2-octenamide | 0.314 g | N[C@H]([C@H](C[C@H](/C=C/C(=O)NCCCC)C(C)C)O)CC1CCCCC1 | C21H40N2O2
